US06953787B2
7-Methoxy-1-methyl-8-(2-thienyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-methoxy-1-methyl-8-(2-thienyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (28 mg, 0.076 mmol) in methanol (2 mL) was treated with 15% aqueous NaOH (2 mL), and stirred 0.5 hours at 50 C. The product mixture was diluted with water (5 mL), extracted twice with EtOAc (5 mL), the combined organic phases were washed with brine (5 mL), dried with Na2SO4 and concentrated to give 18 mg of a yellow oil. 1H NMR (400 MHz, CDCl3) d 7.45 (d, J=4 Hz, 1 H), 7.39 (s, 1 H), 7.27 (d, J=6 Hz, 1 H), 7.07 (dd, J=4, 6 Hz, 1 H), 6.71 (s, 1 H), 3.90 (s, 3 H), 3.1−2.9 (m, 6 H), 2.80 (m, 1 H), 2.22 (bs, 1 H), 1.38 (d, J=7 Hz, 3 H). MS calculated for C16H19NOS+H: 274, observed: 274.

reactant | N-trifluoroacetyl-7-methoxy-1-methyl-8-(2-thienyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.076 mmol, 28 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)C=2SC=CC2)(F)F | C18H18F3NO2S
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 7-Methoxy-1-methyl-8-(2-thienyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 18 mg | COC1=CC2=C(C(CNCC2)C)C=C1C=1SC=CC1 | C16H19NOS
